US05834454
A mixture of ethyl 5,6-dihydro-9-methyl-6-oxo-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxylate (0.65 g, 2.53 mmol), guanidine hydrochloride (1.21 g, 12.6 mmol), sodium methoxide (0.68 g, 12.6 mmol) and N,N-dimethylformamide (35 ml) was stirred at room temperature for 18 hours. The reaction mixture was poured into a 10% aqueous sodium chloride solution and extracted three times with ethyl acetate, and the extract solution was washed with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain crude N-(aminoiminomethyl)-5,6-dihydro-6-oxo-9-methyl-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxamide. This crude product was added to a mixture of aqueous isopropanol and methanesulfonic acid (0.47 g, 4.89 mmol) and dissolved therein by heating, and the resulting solution was cooled to 0° C. The crystals precipitated were collected by filtration and then recrystallized from water to obtain N-(aminoiminomethyl)-5,6-dihydro-9-methyl-6-oxo-4H-pyrrolo[3,2,1-ij]quinoline-2-carboxamide methanesulfonate (0.57 g)

reactant | ethyl 5,6-dihydro-9-methyl-6-oxo-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxylate | 2.53 mmol, 0.65 g | CC1=CC=C2C(CCN3C2=C1C=C3C(=O)OCC)=O | C15H15NO3
reactant | guanidine hydrochloride | 12.6 mmol, 1.21 g | Cl.NC(=N)N
reactant | sodium methoxide | 12.6 mmol, 0.68 g | C[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | N-(aminoiminomethyl)-5,6-dihydro-6-oxo-9-methyl-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxamide | NN=CNC(=O)C1=CC=2C(=CC=C3C(CCN1C23)=O)C | C14H14N4O2
